US05434149
In analogy to Example 1, by reacting 5-(3,4-dimethoxyphenyl)-3,6-dihydro-1,3,4-thiadiazin-2-one with 3-chloropropyldimethylamine, 3-dimethylaminopropyl-5(3,4-dimethoxyphenyl)-3,6-dihydro-1,3,4-thiadiazin-2-one is obtained; m.p. 195°.

reactant | 5-(3,4-dimethoxyphenyl)-3,6-dihydro-1,3,4-thiadiazin-2-one | COC=1C=C(C=CC1OC)C1=NNC(SC1)=O | C11H12N2O3S
reactant | 3-chloropropyldimethylamine | ClCCCN(C)C | C5H12ClN
product | 3-dimethylaminopropyl-5(3,4-dimethoxyphenyl)-3,6-dihydro-1,3,4-thiadiazin-2-one | CN(CCCN1C(SCC(=N1)C1=CC(=C(C=C1)OC)OC)=O)C | C16H23N3O3S
